US06046214
A solution of (1-methyl-1,2,3,6-tetrahydro-3-pyridyl)methanol (0.7 g, 5.5 mmol), triethylamine (25 ml), and acetic anhydride (20 ml) was refluxed for 2h. The reaction mixture was extracted with methylene chloride and pH was adjusted to 10 with aqueous sodium hydroxide. The solution was extracted with methylene chloride, which was dried over magnesium sulfate and evaporated to dryness in vacuo. The residue was purified on a silica gel column (Eluent: methanol/methylene chloride (1/9)) to give 1-methyl-1,2,3,6-tetrahydropyridin-3-yl acetate as an oil (Yield: 0.69 9, 70%).

reactant | (1-methyl-1,2,3,6-tetrahydro-3-pyridyl)methanol | 5.5 mmol, 0.7 g | CN1CC(C=CC1)CO | C7H13NO
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethylamine | 25 ml | C(C)N(CC)CC | C6H15N
product | 1-methyl-1,2,3,6-tetrahydropyridin-3-yl acetate | C(C)(=O)OC1CN(CC=C1)C | C8H13NO2
